US05051361
3-carboxymethyl-3'-azido-3'-deoxythymidine (AZT-3-AA)
A mixture of 560 mg AZT, 15 ml absolute ethanol, 2 ml sodium methoxide solution (4.4M NaOMe in MeOH) and 500 mg bromoacetic acid was refluxed for5.5 hours, then allowed to stand overnight at room temperature. The next morning, 1 ml NaOMe solution was added followed by 300 mg bromoacetic acidand the mixture refluxed for one hour, at which time the reaction was shownto be complete by TLC on silica gel-F 250 um using the solvent system CHCl3 /MeOH/HOAc (85+15+1). The reaction mixture was diluted with five volumes of deionized water and extracted with CHCl3. The aqueousphase was acidified with 1N HCl, and extracted into EtOAc. The EtOAc extract was concentrated under reduced pressure and chromatographed by preparative TLC on silica gel-F 1000 um using the solvent system CHCl3 /MeOH/HOAc (85+15+1). The product band (Rf =0.25) was scraped, eluted with MeOH and concentrated to a syrup which was flashed repeatedly with CHCl3, MeCl2 and THF until the odor of HOAc was no longer detectable. The oil was stored in vacuo over sodium hydroxide pellets. The product was homogeneous on TLC and its UV spectrum resembled that of AZT-3-VA (Example 2) and 3-methylthymidine. The product was subsequently shown to have immunological activity with antisera to AZT by FPIA.

reactant | AZT | 560 mg | CC1=CN(C(=O)NC1=O)[C@H]2C[C@@H]([C@H](O2)CO)N=[N+]=[N-] | C10H13N5O4
reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | sodium methoxide | 4.4M, 2 ml | C[O-].[Na+]
reactant | bromoacetic acid | 500 mg | BrCC(=O)O | C2H3BrO2
reactant | NaOMe | 1 ml | C[O-].[Na+]
solvent | water | O | H2O
solvent | CHCl3 MeOH HOAc | C(Cl)(Cl)Cl.CO.CC(=O)O
product | 3-carboxymethyl-3'-azido-3'-deoxythymidine | C(=O)(O)CN1C(N([C@H]2C[C@@H]([C@@H](CO)O2)N=[N+]=[N-])C=C(C1=O)C)=O | C12H15N5O6
